US06506744B1
To a solution of (7-amino-1-methyl-2,5-dioxo-1,2,3,5-tetrahydro-benzo[e][1,4]diazepin-4-yl)-acetic acid ethyl ester (0.65 g, 2.23 mmol) in DMF (5 ml) was added benzylisocyanate (0.5 g, 3.75 mmol) and DMAP (5 mg). After 2 h at 60° C. the reaction mixture was poured into AcOEt (70 ml), washed with aqueous KHSO4 (0.1 N) and water. After drying over Na2SO4 and evaporation of the solvents the residue was purified by chromatography (dichloromethane/MeOH 19:1) to give [7-(3-benzyl-ureido)-1-methyl-2,5-dioxo-1,2,3,5-tetrahydro-benzo[e][1,4]diazepin-4-yl]-acetic acid ethyl ester (930 mg, 2.19 mmol): mp. 151° C.; MS (EI): 424 (M)+.

reactant | (7-amino-1-methyl-2,5-dioxo-1,2,3,5-tetrahydro-benzo[e][1,4]diazepin-4-yl)-acetic acid ethyl ester | 2.23 mmol, 0.65 g | C(C)OC(CN1CC(N(C2=C(C1=O)C=C(C=C2)N)C)=O)=O | C14H17N3O4
reactant | benzylisocyanate | 3.75 mmol, 0.5 g | C(C1=CC=CC=C1)N=C=O | C8H7NO
reactant | AcOEt | 70 ml | CCOC(=O)C | C4H8O2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
catalyst | DMAP | 5 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | [7-(3-benzyl-ureido)-1-methyl-2,5-dioxo-1,2,3,5-tetrahydro-benzo[e][1,4]diazepin-4-yl]-acetic acid ethyl ester | 2.19 mmol, 930 mg | C(C)OC(CN1CC(N(C2=C(C1=O)C=C(C=C2)NC(=O)NCC2=CC=CC=C2)C)=O)=O | C22H24N4O5
